US06087380
1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 26 from 1-methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 82% of theory, C26H25N5O4 (471.5) Rf value: 0.11 (silica gel; dichloromethane/ethanol=4:1) ##EQU33##

reactant | 1-methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 82% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)O | InChI=1S/C26H25N5O4.ClH/c1-30-22-12-9-18(26(34)31(14-13-24(32)33)19-5-3-2-4-6-19)15-21(22)29-23(30)16-35-20-10-7-17(8-11-20)25(27)28;/h2-12,15H,13-14,16H2,1H3,(H3,27,28)(H,32,33);1H
